US04501746
N-[(3-pyridyl)methyl]-N-(1,1-dimethylethyl)-α-(n-butylthio)acetamide was prepared by the method of Example 2 by reacting 8.2 g. of N-[(3-pyridyl)methyl]-(1,1-dimethylethyl)amine with 7.4 g. of α-(n-butylthio)acetic acid and 10.3 g. of N,N'-dicyclohexylcarbodiimide in 150 ml. of dichloromethane. Weight 1.6 g. M.P. 55°-56° C.

reactant | N-[(3-pyridyl)methyl]-(1,1-dimethylethyl)amine | N1=CC(=CC=C1)CNC(C)(C)C | C10H16N2
reactant | α-(n-butylthio)acetic acid | C(CCC)SCC(=O)O | C6H12O2S
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[(3-pyridyl)methyl]-N-(1,1-dimethylethyl)-α-(n-butylthio)acetamide | N1=CC(=CC=C1)CN(C(CSCCCC)=O)C(C)(C)C | C16H26N2OS
